US05145939
A mixture of 1.302 g (4.965 mmol) of dihydroxy-meta-terphenyl, 1.518 g (4.990 mmol) of bis(2-nitrophenyl)carbonate, 0.05 mmol of phenol and 20 mL of tetrachloroethane was stirred under nitrogen for 1 hour. There was added to the mixture, 10 mg (0.082 mmol) of dimethylaminopyridine and an immediate yellow color formed resulting in the formation of 2-nitrophenol. The mixture was stirred at room temperature for 12 hours and a viscous, yellow, translucent solution was formed. The mixture was added to a blender containing methanol to effect the precipitation of a powder which was filtered and resuspended in tetrachloroethane, reprecipitated into methanol, filtered and dried in vacuo at 150° C. for 15 hours. There was obtained a yield of 85-96% of product which was a polycarbonate consisting essentially of dihydroxy-meta-terphenyl carbonate units based on method of preparation.

reactant | dihydroxy-meta-terphenyl | 4.965 mmol, 1.302 g | OC=1C(=C(C=CC1)C1=CC(=CC=C1)C1=CC=CC=C1)O | C18H14O2
reactant | bis(2-nitrophenyl)carbonate | 4.990 mmol, 1.518 g | [N+](=O)([O-])C1=C(C=CC=C1)OC(OC1=C(C=CC=C1)[N+](=O)[O-])=O | C13H8N2O7
reactant | phenol | 0.05 mmol | C1(=CC=CC=C1)O | C6H6O
reactant | dimethylaminopyridine | 0.082 mmol, 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrachloroethane | 20 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 2-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
